US04049653
4,4-Dimethyl-7-(4-p-Fluorophenyl-1-Methylbutyl)-9-[4-(Morpholino)-Butyryloxy]-1,2,3,4-Tetrahydrocyclopenta[c] [1]Benzopyran Hydrochloride
7.10 g. (18.7 mmoles) of 4,4-dimethyl-9-hydroxy-7-(4-p-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c] [1]benzopyran, prepared according to the method of Example 6, 4.33 g. (21.0 mmoles) of dicyclohexylcarbodiimide and 4.26 g. (20.3 mmoles) of γ-morpholinobutyric acid hydrochloride are combined with 325 ml. of methylene chloride and stirred at room temperature for a total of 24 hours. The insoluble by-product of dicyclohexylurea is separated by filtration and the methylene chloride is removed using a rotary evaporator. The viscous residue is dissolved in about 100 ml. of benzene and the benzene solution is filtered to remove a small amount of insoluble material. The benzene is removed using a rotary evaporator and the remaining residue is triturated with approximately 250 ml. of ether. The solid which forms is filtered, washed with ether and dried to yield a solid. The material is crystallized from benzene/ether to give the solid product.

reactant | 4,4-dimethyl-9-hydroxy-7-(4-p-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c] [1]benzopyran | 18.7 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCC2=CC=C(C=C2)F)C)O)C | C25H29FO2
reactant | dicyclohexylcarbodiimide | 21.0 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | γ-morpholinobutyric acid hydrochloride | 20.3 mmoles | Cl.O1CCN(CC1)CCCC(=O)O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(4-p-Fluorophenyl-1-Methylbutyl)-9-[4-(Morpholino)-Butyryloxy]-1,2,3,4-Tetrahydrocyclopenta[c] [1]Benzopyran Hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCC2=CC=C(C=C2)F)C)OC(CCCN2CCOCC2)=O)C | InChI=1S/C33H42FNO4.ClH/c1-23(7-4-8-24-12-14-26(34)15-13-24)25-21-29(38-31(36)11-6-16-35-17-19-37-20-18-35)32-27-9-5-10-28(27)33(2,3)39-30(32)22-25;/h12-15,21-23H,4-11,16-20H2,1-3H3;1H
